US06353006B1
(1S)-1-(Hydroxymethyl)-2-methylbutylamine was made from (L)-isoleucine methyl ester as described in Method B1b. The 2-hydroxyethylamine was converted to (1S)-1-(chloromethyl)-2-methylbutanammonium chloride as described in Method B7a. 4-Nitro-1-naphthylamine was converted to 4-nitro-1-naphthyl isothiocyanate according to Method A2b. 4-Nitro-1-naphthyl isothiocyanate was reacted with (1S)-1-(chloromethyl)-2-methylbutanammonium chloride to Method C1a to give (4S)-2-(4-nitro-1-naphthylimino)-4-(2-butyl)-1,3-thiazolidine. The thiazolidine was reacted with isobutyl bromide according to Method D2a to give (4S)-2-(4-nitro-1-naphthylimino)-4-butyl-3-isobutyl-1,3-thiazolidine.

reactant | (1S)-1-(Hydroxymethyl)-2-methylbutylamine | OC[C@H](C(CC)C)N | C6H15NO
reactant | (L)-isoleucine methyl ester | COC([C@@H](N)[C@@H](C)CC)=O | C7H15NO2
reactant | 2-hydroxyethylamine | OCCN | C2H7NO
reactant | 4-Nitro-1-naphthylamine | [N+](=O)([O-])C1=CC=C(C2=CC=CC=C12)N | C10H8N2O2
reactant | 4-nitro-1-naphthyl isothiocyanate | [N+](=O)([O-])C1=CC=C(C2=CC=CC=C12)N=C=S | C11H6N2O2S
product | (4S)-2-(4-nitro-1-naphthylimino)-4-(2-butyl)-1,3-thiazolidine | [N+](=O)([O-])C1=CC=C(C2=CC=CC=C12)N=C1SC[C@@H](N1)C(C)CC | C17H19N3O2S
